US08492378B2
2-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]propan-2-ol
A mixture of 1-methyl-1-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]ethyl acetate (192 mg, 4.99 mmol), 1 M aqueous sodium hydroxide solution (5 mL), tetrahydrofuran (5 mL) and methanol (5 mL) was stirred at room temperature for 1.5 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=10/1-0/1) and recrystallized from hexane/ethyl acetate to give the title compound (61.2 mg, yield 36%) as yellow crystals.

reactant | 1-methyl-1-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]ethyl acetate | 4.99 mmol, 192 mg | C(C)(=O)OC(C)(C=1OC(=NN1)C1=CC(=NC=C1)NC1=CC=C(C=C1)SC)C | C19H20N4O3S
reactant | sodium hydroxide | 1 M, 5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[5-[2-[[4-(methylthio)phenyl]amino]-4-pyridyl]-1,3,4-oxadiazol-2-yl]propan-2-ol | 61.2 mg, yield 36% | CSC1=CC=C(C=C1)NC1=NC=CC(=C1)C1=NN=C(O1)C(C)(C)O | C17H18N4O2S
